US09062070B2
Step H: ethyl 3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine-7-carboxylate
To a solution of ethyl 3-amino-6,7-dihydro-5H-cyclopenta[b]pyridine-7-carboxylate (3.0 g, 14.6 mmol) and triethyl orthoformate (6.5 g, 43.6 mmol) in 50 mL of acetic acid was added sodium azide (1.0 g, 16.0 mmol). The mixture was heated to 100° C. for 3 hours. The reaction was complete by TLC. The reaction mixture was cooled to room temperature. The solvent was removed under vacuum. The residue was dissolved in EtOAc, washed with water, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by column chromatography to afford the title compound

reactant | ethyl 3-amino-6,7-dihydro-5H-cyclopenta[b]pyridine-7-carboxylate | 14.6 mmol, 3.0 g | NC=1C=C2C(=NC1)C(CC2)C(=O)OCC | C11H14N2O2
reactant | triethyl orthoformate | 43.6 mmol, 6.5 g | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium azide | 16.0 mmol, 1.0 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | ethyl 3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine-7-carboxylate | N1(N=NN=C1)C=1C=C2C(=NC1)C(CC2)C(=O)OCC | C12H13N5O2
